US06359138B1
5-Methoxy-1H-indole-2-carboxylic acid (10 g, 52.3 mmol) in EtOH (400 ml) containing 36% H2SO4 (7 ml) was heated under reflux for 18 hr. After cooling the mixture was neutralised with 2N NaOH (to pH 7) and extracted with EtOAc (3×150ml), the combined extracts were washed with 10% NaHCO3 (2×25 ml), dried (MgSO4), filtered and evaporated to afford 5-methoxy-1H-indole-2-carboxylic acid ethyl ester as a brown solid (9.52 g, 43.3 mmol, 82%) Mp. 154-155° C., MS: m/e=219.1 (M+).

reactant | 5-Methoxy-1H-indole-2-carboxylic acid | 52.3 mmol, 10 g | COC=1C=C2C=C(NC2=CC1)C(=O)O | C10H9NO3
reactant | H2SO4 | 7 ml | OS(=O)(=O)O | H2O4S
reactant | NaOH | 2N, pH 7 | [OH-].[Na+]
reactant | EtOH | 400 ml | CCO | C2H6O
product | 5-methoxy-1H-indole-2-carboxylic acid ethyl ester | 43.3 mmol, 9.52 g, 82% | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)OC | C12H13NO3
